US09212190B2
Synthesis of 2-[(3R)-12-[[4-(4-benzylpiperazin-1-yl)cyclohexyl]oxy]-7-thia-9,11-diazatricyclo[6.4.0.0[2,6]]dodeca-1(12),2(6),8,10-tetraen-3-yl]acetamide (I-122)
To a solution of 2-[(3R)-12-[[4-(4-benzylpiperazin-1-yl)cyclohexyl]oxy]-7-thia-9,11-diazatricyclo[6.4.0.0[2,6]]dodeca-1(12),2(6),8,10-tetraen-3-yl]acetonitrile (270 mg, 0.55 mmol, 1.00 equiv) in methanol (25 mL) were added LiOH.H2O (70 mg) and H2O2 (30%) (1.2 mL). The resulting solution was stirred for 4 h at 0° C. in a water/ice bath. The reaction was then quenched by the addition of 100 mL of Na2SO3 (sat.). The resulting solution was extracted with 6×50 mL of dichloromethane and the organic layers combined. After evaporation, the residue was purified by silica gel column with dichloromethane/methanol (4:1). This resulted in 90 mg (32%) of Compound I-122 as a white solid.

reactant | 2-[(3R)-12-[[4-(4-benzylpiperazin-1-yl)cyclohexyl]oxy]-7-thia-9,11-diazatricyclo[6.4.0.0[2,6]]dodeca-1(12),2(6),8,10-tetraen-3-yl]acetonitrile | 0.55 mmol, 270 mg, 1.00 equiv | C(C1=CC=CC=C1)N1CCN(CC1)C1CCC(CC1)OC=1N=CN=C2SC=3CC[C@@H](C3C12)CC#N | C28H33N5OS
reactant | LiOH.H2O | 70 mg | O[Li].O
reactant | H2O2 | 1.2 mL | OO | H2O2
solvent | methanol | 25 mL | CO | CH4O
product | 2-[(3R)-12-[[4-(4-benzylpiperazin-1-yl)cyclohexyl]oxy]-7-thia-9,11-diazatricyclo[6.4.0.0[2,6]]dodeca-1(12),2(6),8,10-tetraen-3-yl]acetamide | 90 mg, 32% | C(C1=CC=CC=C1)N1CCN(CC1)C1CCC(CC1)OC=1N=CN=C2SC=3CC[C@@H](C3C12)CC(=O)N | C28H35N5O2S
